Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Severe headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old female with a history of migraines, 
obestity, labile blood pressure and sleep apnea who presented to 
her PCPs office today with headache and elevated blood pressures 
of 184/116 left arm and 180/108 right arm. Headache frontal, 
behind eyes. It feels slightly different from her normal migrane 
in that it is lasting longer and her normal migranes are a 
little more temporally located. Her migranes generally cause her 
to vomit, but this headache is just making her nauseous. It 
started 3 days PTA. She was sent to the ED from clinic for 
further workup. She also notes that she is also having 
intermittent chest pain and shortness of breath.  
.  
She has been on imitrex in the past for migranes and was told to 
stop by a MD because she had been on it for too long. She has 
been told her blood pressures were mildly elevated in the past 
but never as high as in the clinic on day of admit. On reviewing 
OMR she often runs in the 140s-150s systolic.  
.  
In the ED, initial VS were: 99.1 84 190/118 19 99  
Patient was given Nitroglycerin SL, Prochlorperazine 10mg, 
diphenhydramine 50mg, aspirin 325. She had a normal fundi exam 
and normal neuro exam per the ED. Nitro relieved CP. A chest XR 
showed no acute process. Her UA was negative and a urinary UCG 
was negative as well. First set of cardiac enzyems were 
negative.  
.  
Vitals on transfer were 99, 94, 120/70, 19, 97% RA  
.  
On the floor, patient reported that her headache had decreased 
to ___ with the prochlorperazine.  
Review of systems:  
(+) Per HPI, also with occasional palpitations.  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies, sinus tenderness, rhinorrhea or congestion. Denied 
cough. Denied vomiting, diarrhea, constipation or abdominal 
pain. No recent change in bowel or bladder habits. No dysuria. 
Denied arthralgias or myalgias. 

 
Past Medical History:
Fibroid uterus  
Obesity  
Sleep apnea - not using sleep apnea  
Migranes  

 
Social History:
___
Family History:
NC 
 
Physical Exam:
Vitals: T: 98.3, BP: 142/84, P: 92, R: 18, O2: 98%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2,+ murmur, rubs, 
gallops  
Abdomen: Obese soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN II-XII intact.  

 
Pertinent Results:
Admission labs ___:

WBC-10.9# RBC-4.38 Hgb-11.8* Hct-36.2 MCV-83 MCH-27.0 MCHC-32.7 
RDW-15.6* Plt ___
Neuts-65.3 ___ Monos-3.3 Eos-2.8 Baso-0.5
___ PTT-22.8 ___
Glucose-91 UreaN-14 Creat-0.8 Na-138 K-4.2 Cl-103 HCO3-25 
AnGap-14
cTropnT-<0.01

Imaging:
___ CXR: No acute intrathoracic process.

 
Brief Hospital Course:
This is a ___ year old female who presents to the ED with 
elevated BP, SOB and intermittent CP and was found to have 
hypertensive urgency.

# Hypertensive urgency: Her presentation was classified as 
hypertensive urgency based on elevated blood pressure without 
evidence of end organ damage (CE neg, UA neg, Cr not elevated, 
ECG unchanged, no papilledema, no CHF).  Her blood pressures 
improved with compazine for her headache and nitro SL in the ED. 
  She was started on HCTZ and the importance of diet and 
exercise were discussed.  She was also counseled to follow-up 
with sleep medicine regarding treatment for her OSA as it is 
contributing to her hypertension.  Patient has follow-up 
scheduled with ___ clinic for blood pressure check 
later this week.

# CP/SOB: She had intermittent chest pain and shortness of 
breath in the setting of hypertension and headache.  These 
symptoms resolved in the ED after compazine and SL nitro. CXR 
unrevealing for source. MI was ruled out with one set of cardiac 
enzymes given duration of symptoms. EKG was unchanged from 
baseline.  Underlying anxiety may be able to relate these two 
symptoms together.

# Headache: Etiology possibly due to a migraine versus 
hypertension.  She may benefit from a preventative medication 
for migraines as she reports having at least one migraine per 
month associated with her menstrual cycle. Patient improved with 
compazine.

# Sleep Apnea: Patient was diagnosed with severe OSA on previous 
sleep study but has not tolerated CPAP mask.  She  was counseled 
on the importance of treating her OSA and a follow-up 
appointment with sleep is in the process of being scheduled.
 
Medications on Admission:
None
 
Discharge Medications:
1. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hypertensive urgency

Secondary:
Obstructive sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for a severe headache and 
elevated blood pressure.  Your headache and blood pressure 
improved with medications.  You were diagnosed with hypertension 
(high blood pressure) and were started on a medication called 
hydrocholothiazide or HCTZ.  It is very important you see the 
sleep doctors to discuss your sleep apnea as it can worsen your 
blood pressure.  Please follow up with your PCP and sleep doctor 
as below.

The following changes were made to your medications:
1. Started hydrocholothiazide for your blood pressure.
 
Followup Instructions:
___